US07273877B2
2-(Aminooxy)ethanol (0.05 g, 0.6 mmol) in MeOH (1 ml) was added to 4-(2,4-difluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid (0.15 g, 0.5 mmol) in MeOH (20 ml). THF was added dropwise until the reagents dissolved. The solution was stirred at RT for 30 min, after which DMT-MM (0.18 g, 0.6 mmol) was added. After stirring at RT for 60 h, the reaction had not gone to completion. Further 2-(aminooxy)ethanol (0.05 g, 0.6 mmol) and DMT-MM (0.18 g, 0.6 mmol) were added and the reaction mixture stirred for a further 2 h at RT. The solvent was then removed under reduced pressure and the residue dissolved in EtOAc. After washing with water ×2, sat. NaHCO3 and brine, the organic layer was dried (Na2SO4), concentrated and further purified by flash chromatography on silica gel (EtOAc followed by 10% MeOH/CH2Cl2) to give 4-(2,4-difluoroanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (0.07 g, 39%) as a white solid; m.p. (EtOAc/Hexane) 232-238° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.62 (br s, 1H), 9.21 (br s, 1H), 8.11 (s, 1H), 7.51-7.38 (m, 2H), 7.17-7.11 (m, 1H), 5.30 (s, 1H), 4.76 (br s, 1H), 3.92 (t, J=4.8 Hz, 2H), 3.62 (t, J=4.8 Hz, 2H), 3.34 (s, 3H). LCMS (ACPI+) 340 (100%). Anal. Calcd for C15H15F2N3O4.0.25 H2O: C, 52.4; H, 4.5; N, 12.2. Found C, 52.6; H, 4.5; N, 12.1

reactant | 2-(Aminooxy)ethanol | 0.6 mmol, 0.05 g | NOCCO | C2H7NO2
reactant | 4-(2,4-difluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | 0.5 mmol, 0.15 g | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)F | C13H10F2N2O3
reactant | THF | C1CCOC1 | C4H8O
reactant | DMT-MM | 0.6 mmol, 0.18 g | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | 2-(aminooxy)ethanol | 0.6 mmol, 0.05 g | NOCCO | C2H7NO2
reactant | DMT-MM | 0.6 mmol, 0.18 g | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | MeOH | 1 ml | CO | CH4O
solvent | MeOH | 20 ml | CO | CH4O
product | 4-(2,4-difluoroanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 0.07 g, 39% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NOCCO)C=CC(=C1)F | C15H15F2N3O4
